US07985769B2
3-[Cyclopropyl-(2,4-dichloro-benzoyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester (85 mg, 0.19 mmol) was dissolved in a mixture of THF-MeOH—H2O (3:2:1) (10 mL) and then 1.2 ml of LiOH 1N was added to it. After 60 min of stirring at room temperature, solvant was removed and then partitioned between 15 ml of H2O, 4 ml of KHSO4 5% and 15 ml of EtOAc. The organic layer was separated and the aqueous phase was washed twice with ethyl acetate (2×10 mL). The combined ethyl acetate layer was dried (MgSO4), concentrated and the residue was purified by preparative chromatography (10% MeOH/CH2Cl2) to obtain 22 mg (27%) of 3-[Cyclopropyl-(2,4-dichloro-benzoyl)-amino]-5-phenyl-thiophene-2-carboxylic acid. NMR 1H (DMSO, 400 MHz): rotamer: 7.75 ppm (m, 2H, Haro); 7.68 ppm (m, Haro, minor rotamer); 7.62-7.55 ppm (m, 2H, Haro); 7.52 ppm (m, Haro, minor rotamer); 7.48-7.27 ppm (m, 5H, Haro); 3.14 ppm (m, minor rotamer); 3.04 ppm (m, 1H, major rotamer); 0.87-0.42 ppm (m, 4H). The following compounds were prepared in a similar manner: Compound #403, Compound #404

reactant | 3-[Cyclopropyl-(2,4-dichloro-benzoyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.19 mmol, 85 mg | COC(=O)C=1SC(=CC1N(C(C1=C(C=C(C=C1)Cl)Cl)=O)C1CC1)C1=CC=CC=C1 | C22H17Cl2NO3S
reactant | LiOH | 1N, 1.2 ml | [Li+].[OH-]
solvent | THF MeOH—H2O | 10 mL | C1CCOC1.CO.O
product | 3-[Cyclopropyl-(2,4-dichloro-benzoyl)-amino]-5-phenyl-thiophene-2-carboxylic acid | 22 mg, 27% | C1(CC1)N(C1=C(SC(=C1)C1=CC=CC=C1)C(=O)O)C(C1=C(C=C(C=C1)Cl)Cl)=O | C21H15Cl2NO3S
